### PR TITLE
`parity` is a `Semiring` homomorphism

### PR DESCRIPTION
**Pull request by jamesmckinna**
This PR follows up on the earlier #1852, and in the absence of any satisfactory resolution of issue #1871, makes the choice to put this under `Data.Parity`, moreover with an ugly/improvable module name. Suggestions welcome!

### CODE REVIEW

**Comment by jamesmckinna** [comment]
Re: `CHANGELOG`
Should I add simply the final lemma, or all the new definitions, or simply the new module (name) to the log?

File: src/Data/Parity/HomomorphismNatParity.agda [hunk 1]
```diff
@@ -0,0 +1,103 @@
...
++-homo-+ (suc m) n = begin
+  parity (suc m + n)          ≡⟨ suc-+-homo-⁻¹ m n ⟩
+  (parity m) ⁻¹ +ℙ (parity n) ≡⟨ cong (_+ℙ (parity n)) (suc-homo-⁻¹ (suc m)) ⟩
+  parity (suc m) +ℙ parity n  ∎ where open ≡-Reasoning
+
+-- parity is a _*_ homomorphism
+
+*-homo-*      : ∀ m n → parity (m * n) ≡ (parity m) *ℙ (parity n)
+*-homo-* zero    n = refl
+*-homo-* (suc m) n with parity m in m≡p | parity n in n≡q
```
Comment (MatthewDaggitt) [inline src/Data/Parity/HomomorphismNatParity.agda:58]: We're not pattern matching on the result of `with` so why not simply define `p = parity m` in the `where` block? Then no need for `m≡p` etc.

File: src/Data/Parity/HomomorphismNatParity.agda [hunk 2]
```diff
@@ -0,0 +1,103 @@
...
+... | p | q = begin
+  parity (suc m * n)                  ≡⟨⟩
+  parity (n + m * n)                  ≡⟨ +-homo-+ n (m * n) ⟩
+  parity n +ℙ parity (m * n)          ≡⟨ cong ((parity n) +ℙ_) (*-homo-* m n) ⟩
+  parity n +ℙ (parity m *ℙ parity n)  ≡⟨ cong (_+ℙ (parity m *ℙ parity n)) n≡q ⟩
+  q +ℙ (parity m *ℙ parity n)         ≡⟨ cong (q +ℙ_) (cong₂ _*ℙ_ m≡p n≡q) ⟩
+  q +ℙ (p *ℙ q)                       ≡⟨ lemma p q ⟩
+  ((p ⁻¹) *ℙ q)                       ≡⟨ cong (_*ℙ q) (cong _⁻¹ (sym m≡p)) ⟩
```
Comment (MatthewDaggitt) [inline src/Data/Parity/HomomorphismNatParity.agda:66]: Unnecessary brackets on this line and the line below.

File: src/Data/Parity/HomomorphismNatParity.agda [hunk 3]
```diff
@@ -0,0 +1,103 @@
...
+
+{-# OPTIONS --without-K --safe #-}
+
+module Data.Parity.HomomorphismNatParity where
+
+open import Data.Nat.Base
+  using (zero; suc; _+_; _*_; parity
+  ; +-rawMagma; +-0-rawMonoid
+  ; +-*-rawNearSemiring; +-*-rawSemiring)
+open import Data.Parity.Base using (Parity; 0ℙ; 1ℙ; _⁻¹)
```
Comment (MatthewDaggitt) [inline src/Data/Parity/HomomorphismNatParity.agda:15]: The style we're moving towards in the standard library is to import the module `as ℙ` and then write `ℙ.+` rather than rename to `_+ℙ_`.

File: src/Data/Parity/HomomorphismNatParity.agda [hunk 4]
```diff
@@ -0,0 +1,103 @@
...
+-- successor and (_⁻¹)
+
+suc-homo-⁻¹ : ∀ n → (parity (suc n)) ⁻¹ ≡ parity n
+suc-homo-⁻¹ zero    = refl
+suc-homo-⁻¹ (suc n) = ⁻¹-inverts (suc-homo-⁻¹ n)
+
+-- parity is a _+_ homomorphism
+
++-homo-+      : ∀ m n → parity (m + n) ≡ (parity m) +ℙ (parity n)
+suc-+-homo-⁻¹ : ∀ m n → parity (suc m + n) ≡ (parity m) ⁻¹ +ℙ (parity n)
```
Comment (MatthewDaggitt) [inline src/Data/Parity/HomomorphismNatParity.agda:39]: Why are these proofs mutually dependent? The definitions of  `+` and `⁻¹` are not mutually dependent so this feels very odd to me.

File: src/Data/Parity/HomomorphismNatParity.agda [hunk 5]
```diff
@@ -0,0 +1,103 @@
...
+
+-- successor and (_⁻¹)
+
+suc-homo-⁻¹ : ∀ n → (parity (suc n)) ⁻¹ ≡ parity n
+suc-homo-⁻¹ zero    = refl
+suc-homo-⁻¹ (suc n) = ⁻¹-inverts (suc-homo-⁻¹ n)
+
+-- parity is a _+_ homomorphism
+
++-homo-+      : ∀ m n → parity (m + n) ≡ (parity m) +ℙ (parity n)
```
Comment (MatthewDaggitt) [inline src/Data/Parity/HomomorphismNatParity.agda:38]: Unnecessary brackets round the `(parity m)`?

File: src/Data/Parity/HomomorphismNatParity.agda [hunk 6]
```diff
@@ -0,0 +1,103 @@
...
+suc-+-homo-⁻¹ : ∀ m n → parity (suc m + n) ≡ (parity m) ⁻¹ +ℙ (parity n)
+
+suc-+-homo-⁻¹ zero    n = sym (suc-homo-⁻¹ (suc n))
+suc-+-homo-⁻¹ (suc m) n = begin
+  parity (suc (suc m) + n)          ≡⟨⟩
+  parity (m + n)                    ≡⟨ +-homo-+ m n ⟩
+  (parity m) +ℙ (parity n)          ≡⟨ cong (_+ℙ (parity n)) (sym (suc-homo-⁻¹ m)) ⟩
```
Comment (MatthewDaggitt) [inline src/Data/Parity/HomomorphismNatParity.agda:45]: Again unnecessary brackets?

File: src/Data/Parity/HomomorphismNatParity.agda [hunk 7]
```diff
@@ -0,0 +1,103 @@
+------------------------------------------------------------------------
+-- The Agda standard library
+--
+-- Some properties about parities
+------------------------------------------------------------------------
+
+{-# OPTIONS --without-K --safe #-}
+
+module Data.Parity.HomomorphismNatParity where
```
Comment (MatthewDaggitt) [inline src/Data/Parity/HomomorphismNatParity.agda:9]: While I agree we should do something about https://github.com/agda/agda-stdlib/issues/1871 in the medium to long term, I think it would be better to stick with the current convention used everywhere else in the library and put this in `Data.Parity.Properties`, rather than have two competing conventions.

**Comment by MatthewDaggitt** [comment]
And of course a CHANGELOG entry would be great :+1:

File: src/Data/Parity/Properties.agda [hunk 8]
```diff
@@ -420,58 +417,137 @@ toSign-injective {p} {q} eq = begin
...
+
++-homo-+      : ∀ m n → parity (m ℕ.+ n) ≡ parity m ℙ.+ parity n
++-homo-+ zero    n = refl
++-homo-+ (suc m) n = begin
+  parity (suc m ℕ.+ n)        ≡⟨ suc-+-homo-⁻¹ m n ⟩
+  (parity m) ⁻¹ ℙ.+ parity n   ≡⟨ cong (ℙ._+ parity n) (suc-homo-⁻¹ (suc m)) ⟩
+  parity (suc m) ℙ.+ parity n  ∎
+  where
+    open ≡-Reasoning
+    suc-+-homo-⁻¹ : ∀ m n → parity (suc m ℕ.+ n) ≡ (parity m) ⁻¹ ℙ.+ parity n
```
Comment (JacquesCarette) [inline src/Data/Parity/Properties.agda:495]: I would probably export this lemma as well, instead of burying it here?

File: src/Data/Parity/Properties.agda [hunk 9]
```diff
@@ -420,58 +417,137 @@ toSign-injective {p} {q} eq = begin
...
+  q ℙ.+ (p ℙ.* q)             ≡⟨ lemma p q ⟩
+  ((p ⁻¹) ℙ.* q)              ≡⟨⟩
+  ((parity m) ⁻¹ ℙ.* q)       ≡⟨ cong (ℙ._* q) (suc-homo-⁻¹ (suc m)) ⟩
+  parity (suc m) ℙ.* q        ≡⟨⟩
+  parity (suc m) ℙ.* parity n ∎
+  where
+    open ≡-Reasoning
+    p = parity m
+    q = parity n
+    -- this lemma simplifies things a lot
```
Comment (JacquesCarette) [inline src/Data/Parity/Properties.agda:520]: Same for this lemma, pull it out. It feels like it ought to be useful in other proofs as well.

File: src/Data/Parity/HomomorphismNatParity.agda (hunk 1 above)
Comment (jamesmckinna) [reply src/Data/Parity/HomomorphismNatParity.agda]: You're absolutely right. Fixed now.

File: src/Data/Parity/HomomorphismNatParity.agda (hunk 2 above)
Comment (jamesmckinna) [reply src/Data/Parity/HomomorphismNatParity.agda]: Thanks! Fixed now.

**Review by JacquesCarette — COMMENTED** [review]
I'm quite happy with these things being defined where they are. These are things that are quite special to the relationship between Nat and parity.

Any reason for all the `Effect` changes to be here? Some errant merge?

File: src/Data/Parity/HomomorphismNatParity.agda (hunk 3 above)
Comment (jamesmckinna) [reply src/Data/Parity/HomomorphismNatParity.agda]: Thanks for the style hint. Fixed now, with 'symmetric' imports for `Nat` and `Parity` in that style, and revised import of `Sign` in the same spirit.

File: src/Data/Parity/HomomorphismNatParity.agda (hunk 4 above)
Comment (jamesmckinna) [reply src/Data/Parity/HomomorphismNatParity.agda]: Again, thanks. I had been unsure about the termination checker's willingness to check the recursive call on `+-homo-+` in the scope of the lemma `suc-+-homo-+`  but it turns out I needn't have been worried.

File: src/Data/Parity/HomomorphismNatParity.agda (hunk 5 above)
Comment (jamesmckinna) [reply src/Data/Parity/HomomorphismNatParity.agda]: ... and `(parity n)` it turns out. Fixed now.

File: src/Data/Parity/HomomorphismNatParity.agda (hunk 6 above)
Comment (jamesmckinna) [reply src/Data/Parity/HomomorphismNatParity.agda]: :+1:

File: src/Data/Parity/HomomorphismNatParity.agda (hunk 7 above)
Comment (jamesmckinna) [reply src/Data/Parity/HomomorphismNatParity.agda]: Done. This module also now removed from the branch.

File: src/Data/Parity/Properties.agda (hunk 8 above)
Comment (jamesmckinna) [reply src/Data/Parity/Properties.agda:495]: Here, I disagree, or at least: if I were to do so, it would reinstate the mutual dependency between this lemma (clearly auxiliary to `+-homo-+`) which @MatthewDaggitt objected to above. On balance, I though he was correct. The other lemma, `suc-homo-⁻¹`, on th eother hand, is independently useful, I think.

Comment (JacquesCarette) [reply src/Data/Parity/Properties.agda:495]: Fair enough.

File: src/Data/Parity/Properties.agda (hunk 9 above)
Comment (jamesmckinna) [reply src/Data/Parity/Properties.agda:520]: Perhaps you're right. It didn't 'smell' right to me as a property of independent interest. I think that it follows 'easily' (at least: I believe it does, but *laboriously*) from `p+p≡0ℙ`, `p⁻¹+p≡1ℙ`, `*-identityˡ`, and `*-distribˡ-+` , but the calculational proof here was definitely quicker/slicker...

**Comment by jamesmckinna** [comment]
And yes, an errant merge. Blast. Pause while I roll evrything back again and re-commit. Grrr.

File: src/Data/Parity/HomomorphismNatParity.agda (hunk 4 above)
Comment (jamesmckinna) [reply src/Data/Parity/HomomorphismNatParity.agda]: I think resolved, but see @JacquesCarette 's suggestion contra below.

File: src/Data/Parity/Properties.agda (hunk 9 above)
Comment (JacquesCarette) [reply src/Data/Parity/Properties.agda:520]: I've been there before: a property that doesn't seem to naturally arise from the external API, but is somehow key in a proof and general.

My experience has been that such key lemmas show up again later, so I pull them out. [I still have multiple passes to do on agda-categories to refactor multiple proofs to use the patterns that were discovered after the proofs were laboriously hand-written.]

It's a very subjective call.

**Comment by JacquesCarette** [comment]
Things are looking great. Except that you seem to have lost your CHANGELOG changes while fixing the errant merge.

**Comment by jamesmckinna** [comment]
> Things are looking great. Except that you seem to have lost your CHANGELOG changes while fixing the errant merge.

Fixed now?

**Comment by JacquesCarette** [comment]
Yes, everything's looking good now.

**Comment by jamesmckinna** [comment]
OK, checked out a clean branch (but maybe from the wrong base?), but the associated PR doesn't look right...
